US06864396B2
A mixture of 5.26 grams of 2,5-bis(4-hexylbenzoyl)terephthalic acid, 100 mL of tetrahydrofuran, and 0.53 grams of 5% palladium on carbon (as a catalyst) was heated at 65° C. for 17 hours in an atmosphere of hydrogen at 270 kPa. The resulting mixture was filtered through Celite™ diatomaceous earth filter agent to remove the catalyst. The filtrate was concentrated in vacuo to give 2,5-bis(4-hexylbenzyl)terephthalic acid.

reactant | 2,5-bis(4-hexylbenzoyl)terephthalic acid | 5.26 grams | C(CCCCC)C1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CCCCCC)=O)C=C1 | C34H38O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.53 grams | [Pd] | Pd
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2,5-bis(4-hexylbenzyl)terephthalic acid | C(CCCCC)C1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)CCCCCC)C=C1 | C34H42O4
